US20010018525A1
Step 1 4-[3,5,3″,5″-Tetramethyl-5′-(7-phenyl-heptylcarbamoyl)-[1,1′;3′,1″]terphenyl-2′-yloxy]-butyric acid ethyl ester
To a solution of 2′-Hydroxy-3,5,3″,5″-tetramethyl-[1,1′;3′,1″]terphenyl-5′-carboxylic acid (7-phenyl-heptyl)-amide (180 mg, 0.327 mmol) in 2 mL DMF was added K2CO3 (24 mg, 0.174 mmol) and the reaction mixture was stirred for 10 min at room temperature. Then 4-bromobutyric acid ethyl ester (70 mg, 0.36 mmol) was added slowly to the reaction mixture. The reaction was stirred at room temperature for 2 d then it was heated for 45 min at a temperature between 40 and 50 °C. Then it was worked up as in Step 1 of Example 146. 1H NMR (CDCl3) δ1.18 (t, J=7.36 Hz, 3H); 1.27-1.37 (m, 6H); 1.44-1.64 (m, 6H); 1.95 (t, J=8.18 Hz, 2H); 2.54 (s, 12H); 2.57 (t, J=7.36 Hz, 2H); 3.25 (t, J=6,54 Hz, 2H); 3.41 (quartet, J=7.36 Hz, 2H); 4.00 (quartet, J=8.18 Hz, 2H); 6.04 (m, 1H); 6.00-6.08 (m, 1H); 6.99 (s, 2H); 7.10-7.26 (m, 9H); 7.66 (s, 2H).

reactant | 2′-Hydroxy-3,5,3″,5″-tetramethyl-[1,1′;3′,1″]terphenyl-5′-carboxylic acid (7-phenyl-heptyl)-amide | 0.327 mmol, 180 mg | C1(=CC=CC=C1)CCCCCCCNC(=O)C=1C=C(C(=C(C1)C1=CC(=CC(=C1)C)C)O)C1=CC(=CC(=C1)C)C | C36H41NO2
reactant | K2CO3 | 0.174 mmol, 24 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 4-bromobutyric acid ethyl ester | 0.36 mmol, 70 mg | C(C)OC(CCCBr)=O | C6H11BrO2
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 4-[3,5,3″,5″-Tetramethyl-5′-(7-phenyl-heptylcarbamoyl)-[1,1′;3′,1″]terphenyl-2′-yloxy]-butyric acid ethyl ester | C(C)OC(CCCOC1=C(C=C(C=C1C1=CC(=CC(=C1)C)C)C(NCCCCCCCC1=CC=CC=C1)=O)C1=CC(=CC(=C1)C)C)=O | C42H51NO4
